US07285563B2
Isoquinoline-5-carbonyl azide
Isoquinoline-5-carboxylic acid monohydrate (5.00 g, 26.2 mmol) was suspended in dichloromethane (200 ml) and N,N-dimethylformamide (5 drops) added. Oxalyl chloride (4.57 ml, 52 mmol) was then added and the reaction stirred for 7 h. The solvent and excess oxalyl chloride was then evaporated and the residue taken up in dichloromethane (200 ml). A solution of sodium azide (2.1 g, 32.3 mmol) and tetra-n-butylammonium bromide (850 mg) in water (50 ml) was then added in one portion and the mixture stirred for 20 min. The layers were separated and the aqueous phase extracted with more dichloromethane (100 ml). The combined organic phases were evaporated and the residue purified by flash column chromatography (eluant ethyl acetate-dichloromethane (1:4)) to give the title compound as a yellow solid (2.27 g, 44%).

reactant | Isoquinoline-5-carboxylic acid monohydrate | 26.2 mmol, 5.00 g | O.C1=NC=CC=2C(=CC=CC12)C(=O)O
reactant | Oxalyl chloride | 52 mmol, 4.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium azide | 32.3 mmol, 2.1 g | [N-]=[N+]=[N-].[Na+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
catalyst | tetra-n-butylammonium bromide | 850 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 50 ml | O | H2O
product | Isoquinoline-5-carbonyl azide | 2.27 g, 44% | C1=NC=CC=2C(=CC=CC12)C(=O)N=[N+]=[N-] | C10H6N4O
